US06403586B1
Preparation of 2-(2-Chloroethyl)-4-ethyoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 1-bromo-2-chloroethane as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 88.8%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 2-(2-Chloroethyl)-4-ethyoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 88.8% | ClCCN1N=C(C=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC | C16H17ClN2O4
